US04528194
2.52 g (10 mmol) of 1-diphenylmethylpiperazine and 1.11 g (11 mmol) of triethylamine were dissolved in 30 ml of isopropanol, followed by addition of a solution obtained by dissolving 2.15 g (10 mmol) of α-bromo-p-hydroxyacetophenone in 20 ml of isopropanol. The mixture was allowed to stand overnight at room temperature. Precipitated crystals were collected by filtration. The crystals were successively washed with isopropanol, water and isopropanol and then dried to give 3.27 g of crude crystals of 2-(4-diphenylmethylpiperazinyl)-1-(4-hydroxyphenyl)ethanone (yield: 84.6%).

reactant | 1-diphenylmethylpiperazine | 10 mmol, 2.52 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | triethylamine | 11 mmol, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | α-bromo-p-hydroxyacetophenone | 10 mmol, 2.15 g | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2-(4-diphenylmethylpiperazinyl)-1-(4-hydroxyphenyl)ethanone | yield: 84.6% | C1(=CC=CC=C1)C(N1CCN(CC1)CC(=O)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C25H26N2O2
